US05332739
15.1 g of phenoxypropyl bromide and 60 g of piperazine were dissolved in 150 ml of dioxane, and the solution was heated at 80°-90° C. for 1 hour. The precipitated crystals were removed by filtration, and the filtrate was then concentrated. Afterward, the resultant residue was dissolved in chloroform and then washed with water. Chloroform was distilled off to obtain 15 g of 1-(3-phenoxypropyl)piperazine.

reactant | phenoxypropyl bromide | 15.1 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | piperazine | 60 g | N1CCNCC1 | C4H10N2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 1-(3-phenoxypropyl)piperazine | 15 g | O(C1=CC=CC=C1)CCCN1CCNCC1 | C13H20N2O
